US04055665
By following essentially the same procedure described in Example 2 but substituting 2-(phenylthio)benzamide for the N-methyl-2-(phenylthio)benzamide, there is obtained 2-(phenylthio)benzylamine.

reactant | 2-(phenylthio)benzamide | C1(=CC=CC=C1)SC1=C(C(=O)N)C=CC=C1 | C13H11NOS
reactant | N-methyl-2-(phenylthio)benzamide | CNC(C1=C(C=CC=C1)SC1=CC=CC=C1)=O | C14H13NOS
product | 2-(phenylthio)benzylamine | C1(=CC=CC=C1)SC1=C(CN)C=CC=C1 | C13H13NS
